US06833387B1
Ethyl N-(3,4-dichlorobenzyl)-3-morpholinosulphonylindole-2-carboxylate [Ethyl ester of Compound 3]
To a suspension of ethyl N-(3,4-dichlorobenzyl)-3-morpholinosulphinylindole-2-carboxylate (803 mg) in acetone (40 ml) was added a solution of potassium permanganate (528 mg) in water (15 ml). The resulting mixture was stirred for 18 hours. The mixture was poured into water (20 ml) and extracted with diethyl ether, dried (MgSO4) and concentrated to a gum which was purified by column chromatography using iso-hexane:ethyl acetate (3:1) as eluent to give the desired product (681 mg, 82%); NMR d (CDCl3) 1.3 (t, 3H), 3.2-3.2 (m, 4H), 3.7-3.8 (m, 4H), 5.4 (s, 2H), 6.95 (d, 1H), 7.3-7.4 (m, 5H), 8.05 (d, 1H); M/z (+) 499.2 (MH+), 497.3.

reactant | ethyl N-(3,4-dichlorobenzyl)-3-morpholinosulphinylindole-2-carboxylate | 803 mg | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)S(=O)N2CCOCC2)C(=O)OCC)C=CC1Cl | C22H22Cl2N2O4S
reactant | potassium permanganate | 528 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | Ethyl N-(3,4-dichlorobenzyl)-3-morpholinosulphonylindole-2-carboxylate | 681 mg, 82% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)S(=O)(=O)N2CCOCC2)C(=O)OCC)C=CC1Cl | C22H22Cl2N2O5S
